US07635700B2
A mixture of 2-(tert-butoxycarbonylamino-methyl)-6-nitro-benzoic acid methyl ester (38.96 g, 126 mmol) lithium hydroxide (3.61 g, 151 mmol) in methanol (450 mL) and water (225 mL) was stirred with a mechanical stirrer at room temp overnight. The methanol was evaporated and to the aqueous solution, was added 1 N HCl (200 mL) to form the precipitate. Ether (300 mL) was added, and the mixture was stirred at 0° C. for 2 hours. The suspension was filtered, washed with water (100 mL) and ether (100 mL), and suction dried in hood overnight to give 2-(tert-butoxycarbonylamino-methyl)-6-nitro-benzoic acid as a yellow solid (22.4 g, 60% yield). The product was used in the next step without further purification.

reactant | 2-(tert-butoxycarbonylamino-methyl)-6-nitro-benzoic acid methyl ester | 126 mmol, 38.96 g | COC(C1=C(C=CC=C1[N+](=O)[O-])CNC(=O)OC(C)(C)C)=O | C14H18N2O6
reactant | Ether | 300 mL | CCOCC | C4H10O
solvent | methanol | 450 mL | CO | CH4O
solvent | water | 225 mL | O | H2O
product | 2-(tert-butoxycarbonylamino-methyl)-6-nitro-benzoic acid | 22.4 g, 60% yield | C(C)(C)(C)OC(=O)NCC1=C(C(=O)O)C(=CC=C1)[N+](=O)[O-] | C13H16N2O6
